US04886816
(c) 6-formyl-2,2,3-trifluoro-1,4-benzodioxane
318 g of 6-bromomethyl-2,2,3-trifluoro-1,4-benzodioxane are added to 318 g of urotropin in 630 ml of water, the reaction mixture is heated under reflux for 2 hours, 318 ml of hydrochloric acid and 470 ml of water are then added and the mixture is heated for a further 3 hours. The product is driven over with steam and is separated off and, after drying, distilled. 158 g of distillate are obtained (boiling point: 112-115° C. (under 18 mbar)) and partly crystallize on standing. The crystal sludge is filtered off with suction and the crystals are washed with cold petroleum ether.

reactant | 6-bromomethyl-2,2,3-trifluoro-1,4-benzodioxane | 318 g | BrCC1=CC2=C(OC(C(O2)F)(F)F)C=C1 | C9H6BrF3O2
reactant | urotropin | 318 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | hydrochloric acid | 318 ml | Cl | ClH
reactant | water | 630 ml | O | H2O
reactant | water | 470 ml | O | H2O
product | 6-formyl-2,2,3-trifluoro-1,4-benzodioxane | C(=O)C1=CC2=C(OC(C(O2)F)(F)F)C=C1 | C9H5F3O3
